US05412134
A mixture of (2S-trans)-2,3-bis[(benzyloxy)methyl]cyclobutanone (0.25 g., 0.806 mmole), iridium tetrachloride (0.016 g., 0.0483 mmole), phosphorous acid (0.397 g., 4.84 mmole) and water (0.3 ml.) in isopropanol (3 ml.) was refluxed overnight. The solvent was evaporated on a rotary evaporator. The residue was taken up in ethyl acetate and washed successively with 10% hydrochloric acid, brine, and 5% sodium bicarbonate. The organic layer was dried (magnesium sulfate) and the solvent was evaporated to give [1S-(1α,2β,3β)]-3-hydroxy-1,2-cyclobutanedimethanol, dibenzyl ether; TLC (40% ethyl acetate/hexane) Rf =0.51.

reactant | (2S-trans)-2,3-bis[(benzyloxy)methyl]cyclobutanone | 0.806 mmole, 0.25 g | C(C1=CC=CC=C1)OC[C@H]1C(C[C@@H]1COCC1=CC=CC=C1)=O | C20H22O3
reactant | phosphorous acid | 4.84 mmole, 0.397 g | P(O)(O)O | H3O3P
reactant | water | 0.3 ml | O | H2O
reactant | isopropanol | 3 ml | C(C)(C)O | C3H8O
catalyst | iridium tetrachloride | 0.0483 mmole, 0.016 g | [Ir](Cl)(Cl)(Cl)Cl
product | dibenzyl ether | C(C1=CC=CC=C1)OCC1=CC=CC=C1 | C14H14O
